US08431597B2
1-((2R,4R)-2-(1H-benzo[d]imidazol-2-yl)-1-methylpiperidin-4-yl)-3-(6-(trifluoromethyl)pyridin-3-yl)urea
(2R,4R)-tert-butyl 2-((2-aminophenyl)carbamoyl)-4-(3-(6-(trifluoromethyl)pyridin-3-yl)ureido)piperidine-1-carboxylate (550 mg, 1.05 mmol) was dissolved in acetic acid (5 mL) and stirred at 65° C. for 2 hours. The reaction mixture was concentrated under reduced pressure to remove acetic acid. Then TFA (3 mL) was added to the residue. The resulting solution was stirred at room temperature for 2 hours. The reaction mixture was concentrated to remove TFA and did next reaction without further purification. 37% formaldehyde solution (0.25 mL, 3.2 mmol) in water was added to a solution of the residue in methanol (5 mL) and the reaction mixture was stirred at room temperature for 1 hour, then 1M sodium cyanoborohydride in THF (3.2 mL, 3.2 mmol) was added carefully at 0° C. The reaction mixture was stirred at room temperature for 18 hours and then solvent was evaporated in vacuum. Saturated sodium bicarbonate solution (20 mL) and ethyl acetate (40 mL) were added and the mixture was stirred about 30 min. The organic layer was separated and dried over MgSO4, and concentrated. Product was purified by Companion (ReadySep 40 g, silica gel packed) with CH3OH/CH2Cl2 from 2%-6-8% to give the title compound as an off-white solid 270 mg (52%). LC-MS: 419.2, 417.3 (t=1.7 min).

reactant | (2R,4R)-tert-butyl 2-((2-aminophenyl)carbamoyl)-4-(3-(6-(trifluoromethyl)pyridin-3-yl)ureido)piperidine-1-carboxylate | 1.05 mmol, 550 mg | NC1=C(C=CC=C1)NC(=O)[C@@H]1N(CC[C@H](C1)NC(=O)NC=1C=NC(=CC1)C(F)(F)F)C(=O)OC(C)(C)C | C24H29F3N6O4
reactant | formaldehyde | 3.2 mmol, 0.25 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 1M | C(#N)[BH3-].[Na+]
reactant | THF | 3.2 mmol, 3.2 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 1-((2R,4R)-2-(1H-benzo[d]imidazol-2-yl)-1-methylpiperidin-4-yl)-3-(6-(trifluoromethyl)pyridin-3-yl)urea | 270 mg, 52% | N1C(=NC2=C1C=CC=C2)[C@@H]2N(CC[C@H](C2)NC(=O)NC=2C=NC(=CC2)C(F)(F)F)C | C20H21F3N6O
